US05270309
Treatment of 2-dimethylamino-1-methylethyl 4-benzyloxy-5,7-dichloroquinoline-2-carboxylate (1.4 g) with hydrogen bromide in acetic acid (15 ml, 48%) as described in Example 33d gave 2-dimethylamino-1-methylethyl 5,7-dichloroquinoline-2-carboxylate hydrobromide (0.32 g), m.p. 228° C. (dec). δ (360 MHz, DMSO-d6) 1.37 (3H, d, CHCH3), 2.86 (6H, s, N(CH3)2), 3.59 (2H, m, CH2N), 5.47 (1H, m, CO2CH), 6.81 (1H, s, 3-H), 7.45 (1H, d, 6-H), 8.05 (1H, d, 8-H), 9.45 (1H, bs, NH) and 12.02 (1H, bs, NH). (Found: C, 39.67; H, 3.93; N, 5.94%. C15H16Cl2N2O3. 1.4HBr requires C, 39.47; H, 3.84; N, 6.14 %).

reactant | 2-dimethylamino-1-methylethyl 4-benzyloxy-5,7-dichloroquinoline-2-carboxylate | 1.4 g | C(C1=CC=CC=C1)OC1=CC(=NC2=CC(=CC(=C12)Cl)Cl)C(=O)OC(CN(C)C)C | C22H22Cl2N2O3
reactant | hydrogen bromide | Br | BrH
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 2-dimethylamino-1-methylethyl 5,7-dichloroquinoline-2-carboxylate hydrobromide | 0.32 g | Br.ClC1=C2C=CC(=NC2=CC(=C1)Cl)C(=O)OC(CN(C)C)C | InChI=1S/C15H16Cl2N2O2.BrH/c1-9(8-19(2)3)21-15(20)13-5-4-11-12(17)6-10(16)7-14(11)18-13;/h4-7,9H,8H2,1-3H3;1H
